US08808703B2
Step 1: diethyl 2-(2-bromoethoxy)ethylphosphonate acid
1-bromo-2-(2-bromoethoxy) ethane (1.0 eq) was mixed with triethyl phosphate (1 eq) then heated to 160° C. for 20 minutes by microwave. The crude mixture was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 70-100% EtOAc/Hex to give the product as a colorless oil.

reactant | 1-bromo-2-(2-bromoethoxy) ethane | 1.0 eq | BrCCOCCBr | C4H8Br2O
reactant | triethyl phosphate | 1 eq | P(=O)(OCC)(OCC)OCC | C6H15O4P
product | diethyl 2-(2-bromoethoxy)ethylphosphonate | BrCCOCCP(OCC)(OCC)=O | C8H18BrO4P
